US03971819
C. 3-benzylamino-4-butylamino-5-sulphamyl-benzoic acid
A suspension of 3-amino-4-butylamino-5-sulphamyl-benzoic acid (6.5 g) in water (30 ml) was adjusted to pH 7.5 H by addition of 1N sodium hydroxide. Benzyl bromide (3.87 g) was added and, under stirring, the pH was kept at pH 7.5 by automatic titration with 1N sodium hydroxide. After the base consumption had become negligible, the pH was adjusted to 3 by addition of diluted hydrochloric acid. The precipitated 3-benzylamino-4-butylamino-5-sulphamyl-benzoic acid was collected and recrystallized several times from aqueous methanol, after which the compound was obtained with a melting point of 198.5-199°C.

reactant | 3-amino-4-butylamino-5-sulphamyl-benzoic acid | 6.5 g | NC=1C=C(C(=O)O)C=C(C1NCCCC)S(N)(=O)=O | C11H17N3O4S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | Benzyl bromide | 3.87 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | 30 ml | O | H2O
product | 3-benzylamino-4-butylamino-5-sulphamyl-benzoic acid | C(C1=CC=CC=C1)NC=1C=C(C(=O)O)C=C(C1NCCCC)S(N)(=O)=O | C18H23N3O4S
